US09193707B2
3. Synthesis of ethyl 2-[2-(1,3-dioxo-2,3-dihydro-1H-isoindol-2-yl)ethyl]quinazoline-4-carboxylate
Into a 2000-mL 4-necked round-bottom flask purged and maintained with an inert atmosphere of nitrogen, was placed a solution of 3-(1,3-dioxo-2,3-dihydro-1H-isoindol-2-yl)-N-phenylpropanamide (40 g, 135.91 mmol, 1.00 equiv) in POCl3 (300 mL). This was followed by the addition of PCl5 (30 g, 144.06 mmol, 1.06 equiv). The mixture was stirred for 2 h at 65° C. The resulting mixture was concentrated under vacuum. The residue was poured into chlorobenzene (500 mL). To this was added SnCl4 (53 g) and 2-ethoxy-2-oxoacetonitrile (26 g, 262.39 mmol, 1.93 equiv) dropwise with stirring. The resulting solution was stirred for 2 h at 120° C. in an oil bath. The reaction mixture was cooled to room temperature. The resulting mixture was concentrated under vacuum. The residue was applied onto a silica gel column with ethyl acetate/petroleum ether (1:5). This resulted in 7.0 g (14%) of ethyl 2-[2-(1,3-dioxo-2,3-dihydro-1H-isoindol-2-yl)ethyl]quinazoline-4-carboxylate as a white solid. MS (ESI) m/z 376 ([M+H]+).

reactant | 3-(1,3-dioxo-2,3-dihydro-1H-isoindol-2-yl)-N-phenylpropanamide | 135.91 mmol, 40 g, 1.00 equiv | O=C1N(C(C2=CC=CC=C12)=O)CCC(=O)NC1=CC=CC=C1 | C17H14N2O3
reactant | PCl5 | 144.06 mmol, 30 g, 1.06 equiv | P(Cl)(Cl)(Cl)(Cl)Cl | Cl5P
reactant | SnCl4 | 53 g | Cl[Sn](Cl)(Cl)Cl
reactant | 2-ethoxy-2-oxoacetonitrile | 262.39 mmol, 26 g, 1.93 equiv | C(C)OC(C#N)=O | C4H5NO2
solvent | POCl3 | 300 mL | O=P(Cl)(Cl)Cl | Cl3OP
product | ethyl 2-[2-(1,3-dioxo-2,3-dihydro-1H-isoindol-2-yl)ethyl]quinazoline-4-carboxylate | O=C1N(C(C2=CC=CC=C12)=O)CCC1=NC2=CC=CC=C2C(=N1)C(=O)OCC | C21H17N3O4
